US08609675B2
Step D—Synthesis of 5-(Tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-1d)
A mixture of 7-chloro-5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidine (Int-1c, 1.52 g, 6.0 mmol) in a solution of ammonia in MeOH (7 N, 20 mL) was heated in sealed vessel at 80° C. for 5 h. The reaction mixture was cooled down and concentrated. The residue was dried in high vacuum and used for the next step without further purification. LC/MS RT=0.92 Min (5 min method). Mass calculated for, M+H 235.09, observed 235.09.

reactant | 7-chloro-5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidine | 6.0 mmol, 1.52 g | ClC1=CC(=NC=2N1N=CC2)C2CCSCC2 | C11H12ClN3S
reactant | ammonia | N | H3N
solvent | MeOH | 7 N, 20 mL | CO | CH4O
product | 5-(Tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-amine | S1CCC(CC1)C1=NC=2N(C(=C1)N)N=CC2 | C11H14N4S
